US06057329
3-Methoxy-5,6,7,8-tetrahydroisoquinoline
A mixture of 3-methoxyisoquinoline (800 mg, 5.03 mmol) and platinum dioxide (100 mg) in concentrated hydrochloric acid (10 ml) was shaken under an atmosphere of hydrogen at 40 psi for 5 h. The mixture was diluted with water, filtered through Celite™, basified with sodium hydroxide then extracted four times with ethyl acetate. The combined organic phases were dried (MgSO4) and concentrated to afford the title compound (600 mg) as a clear oil, MS (ES+) 164 (MH+). δH (CDCl3) 7.85 (1H, s), 6.43 (1H, s), 3.87 (3H, s), 2.65 (4H, m) and 1.75 (4H, m).

reactant | 3-methoxyisoquinoline | 5.03 mmol, 800 mg | COC=1N=CC2=CC=CC=C2C1 | C10H9NO
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | O | H2O
catalyst | platinum dioxide | 100 mg | [Pt](=O)=O
product | 3-Methoxy-5,6,7,8-tetrahydroisoquinoline | 600 mg | COC=1N=CC=2CCCCC2C1 | C10H13NO
